US09353089B2
Step 1. Preparation of N-(cyclohexylcarbamothioyl)benzamide
Benzoyl isothiocyanate (19.4 g, 118.9 mmol) was dissolved in dichloromethane and cooled to 0° C. Cyclohexylamine (13 g, 131.1 mmol) was added dropwise. Then the reaction was stirred at room temperature for 2 h. The mixture was washed with water, dried over sodium sulfate. Concentration under vaccum gave the title compound as a pale white solid in quantitative yield.

reactant | Benzoyl isothiocyanate | 118.9 mmol, 19.4 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | Cyclohexylamine | 131.1 mmol, 13 g | C1(CCCCC1)N | C6H13N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(cyclohexylcarbamothioyl)benzamide | quantitative yield | C1(CCCCC1)NC(=S)NC(C1=CC=CC=C1)=O | C14H18N2OS
